US05670493
Stage A: 4-Bromophenyldibenzylamine
Pyridine (56.3 ml, 0.698 mol) is added to a solution of p-bromoaniline (50 g, 0.290 mol) in acetonitrile (500 ml) at 5° C., and benzylbromide (84 ml, 0.698 mol) is then added dropwise. The mixture is stirred overnight at room temperature and then 1 hour under reflux. The acetonitrile is evaporated off and the residue is taken up in dichloromethane. The organic phase is washed with 1N HCl and then saturated NaCl, dried over sodium sulfate and evaporated to give 68.5 g of a mixture of mono- and dibenzylated (50:50) product. The mixture is separated by chromatography on silica (cyclohexane/ethyl acetate, 70:30) and yields the expected product.

reactant | Pyridine | 0.698 mol, 56.3 ml | N1=CC=CC=C1 | C5H5N
reactant | p-bromoaniline | 0.290 mol, 50 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | benzylbromide | 0.698 mol, 84 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 4-Bromophenyldibenzylamine | 68.5 g | BrC1=CC=C(C=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H18BrN
